US08236826B2
Production of 1-(4-piperonylpiperazin-1-yl)-2-{4-[5-(4-trifluoromethylphenoxymethyl)pyridin-2-yloxy]-phenylamino}ethanone
4-[5-(4-trifluoromethylphenoxymethyl)pyridin-2-yloxy]phenylamine (4.50 g, 12.5 mmol) was dissolved in DMF (150 mL). To the resulting solution were added potassium carbonate (2.60 g, 18.8 mmol) and sodium iodide (1.87 g, 12.5 mmol), and then to this solution was added 2-chloro-1-(4-piperonylpiperazin-1-yl)ethanone (4.21 g, 12.5 mmol). The resulting solution was stirred for 11 hours under a nitrogen atmosphere at 80° C. The resulting reaction solution was concentrated under reduced pressure. To the residue was added ethyl acetate and washed with a saturated sodium bicarbonate solution and brine. The organic layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (dichloromethane:methanol=80:1), to thereby yield 5.2 g of the title compound.

reactant | 4-[5-(4-trifluoromethylphenoxymethyl)pyridin-2-yloxy]phenylamine | 12.5 mmol, 4.50 g | FC(C1=CC=C(OCC=2C=CC(=NC2)OC2=CC=C(C=C2)N)C=C1)(F)F | C19H15F3N2O2
reactant | potassium carbonate | 18.8 mmol, 2.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 12.5 mmol, 1.87 g | [I-].[Na+]
reactant | 2-chloro-1-(4-piperonylpiperazin-1-yl)ethanone | 12.5 mmol, 4.21 g | ClCC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1 | C14H17ClN2O3
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 1-(4-piperonylpiperazin-1-yl)-2-{4-[5-(4-trifluoromethylphenoxymethyl)pyridin-2-yloxy]-phenylamino}ethanone | C(C1=CC=2OCOC2C=C1)N1CCN(CC1)C(CNC1=CC=C(C=C1)OC1=NC=C(C=C1)COC1=CC=C(C=C1)C(F)(F)F)=O | C33H31F3N4O5
